US06313122B1
E. 1-Boc-4-carboxy-3,4-didehydropiperidine
To a stirring solution of 1-Boc-4-methoxycarbonyl-3,4-didehydropiperidine (28.81 g, 119 mmol) in methanol (300 mL) was added 1 N aqueous sodium hydroxide (300 mL). After stirring overnight, the solvent was removed by rotary evaporation and the residue was partitioned between water and diethyl ether. The aqueous phase was separated and washed with diethyl ether, acidified to pH 2.5 with conc. HCl, then extracted with diethyl ether. The organic extract was then washed with brine, dried with MgSO4, filtered and concentrated in vacuo to give 25.16 g (93%) of a light yellow solid.

reactant | 1-Boc-4-methoxycarbonyl-3,4-didehydropiperidine | 119 mmol, 28.81 g | C(=O)(OC(C)(C)C)N1CC=C(CC1)C(=O)OC | C12H19NO4
reactant | sodium hydroxide | 1 N, 300 mL | [OH-].[Na+]
solvent | methanol | 300 mL | CO | CH4O
product | 1-Boc-4-carboxy-3,4-didehydropiperidine | 25.16 g, 93% | C(=O)(OC(C)(C)C)N1CC=C(CC1)C(=O)O | C11H17NO4
